US05914328
98a. 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine-N-oxide
A sample of 3,5-dibromopyridine-N-oxide (prepared according to the method of Y. Tamura et al., Heterocycles, 15:871-874 (1981)) is reacted with (S)-(-)-1-methyl-2-pyrrolidinemethanol according to the procedure of Example 3a, and the product is purified by chromatography on silica gel.

reactant | 3,5-dibromopyridine-N-oxide | BrC=1C=[N+](C=C(C1)Br)[O-] | C5H3Br2NO
reactant | (S)-(-)-1-methyl-2-pyrrolidinemethanol | CN1[C@@H](CCC1)CO | C6H13NO
product | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine-N-oxide | CN1[C@@H](CCC1)COC=1C=[N+](C=C(C1)Br)[O-] | C11H15BrN2O2
